US07825253B2
N2-(3-Cyclopropyl-phenyl)-N5-(5-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=370.4 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 3-cyclopropylaniline and 4-methyl-1H-imidazole-5-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3-cyclopropylaniline | C1(CC1)C=1C=C(N)C=CC1 | C9H11N
reactant | 4-methyl-1H-imidazole-5-carbaldehyde | CC=1N=CNC1C=O | C5H6N2O
product | N2-(3-Cyclopropyl-phenyl)-N5-(5-methyl-3H-imidazol-4-ylmethyl)-quinoline-2,5-diamine | C1(CC1)C=1C=C(C=CC1)NC1=NC=2C=CC=C(C2C=C1)NCC=1NC=NC1C | C23H23N5
